US06313312B1
6-[3-(1H-Benzimidazol-2-yl)phenyl]-3-hexyl-6-methyl-3-azabicyclo[3.1.0]hexan-2-one
To ethyl 3-(3-hexyl-6-methyl-2-oxo-3-azabicyclo[3.1.0]hex-6-yl)benzenecarboximidoate (Preparation 42, 0.13 g, 0.34 mmol) in methanol (4 ml) at room temperature was added 1,2-diaminobenzene (37 mg, 0.34 mmol) and the mixture was heated under reflux for 1 h and then cooled and concentrated in vacuo. The residue was dissolved in dichloromethane (10 ml) and washed with 10% aqueous potassium carbonate solution (10 ml). The aqueous layer was then reextracted with dichloromethane (2×8 ml). The combined organic layers were dried (MgSO4) and then concentrated in vacuo. The crude residue was purified by chromatography on silica gel eluting with hexane:ethyl acetate (1:1 and then 1:2) to give the title compound as a white foam (61 mg, 47%).

reactant | ethyl 3-(3-hexyl-6-methyl-2-oxo-3-azabicyclo[3.1.0]hex-6-yl)benzenecarboximidoate | 0.34 mmol, 0.13 g | C(CCCCC)N1C(C2C(C2C1)(C)C=1C=C(C=CC1)C(OCC)=N)=O | C21H30N2O2
reactant | 1,2-diaminobenzene | 0.34 mmol, 37 mg | NC1=C(C=CC=C1)N | C6H8N2
solvent | methanol | 4 ml | CO | CH4O
product | 6-[3-(1H-Benzimidazol-2-yl)phenyl]-3-hexyl-6-methyl-3-azabicyclo[3.1.0]hexan-2-one | 61 mg, 47% | N1C(=NC2=C1C=CC=C2)C=2C=C(C=CC2)C2(C1CN(C(C21)=O)CCCCCC)C | C25H29N3O
